US07446118B2
3-(3-Methoxy-1H-indazol-6-yl)-3-pyridin-2yl-acrylic acid ethyl ester CCXLIII was prepared from 6-bromo-3-methoxy-1H-indazole and 3-pyridin-2-yl-acrylic acid ethyl ester using the procedure described for preparation of 3-(3-Cyano-1H-Indol-4-yl)-3-phenyl-acrylic acid ethyl ester LVIII (Example 14).

reactant | 6-bromo-3-methoxy-1H-indazole | BrC1=CC=C2C(=NNC2=C1)OC | C8H7BrN2O
reactant | 3-pyridin-2-yl-acrylic acid ethyl ester | C(C)OC(C=CC1=NC=CC=C1)=O | C10H11NO2
reactant | 3-(3-Cyano-1H-Indol-4-yl)-3-phenyl-acrylic acid ethyl ester | C(C)OC(C=C(C1=CC=CC=C1)C1=C2C(=CNC2=CC=C1)C#N)=O | C20H16N2O2
product | 3-(3-Methoxy-1H-indazol-6-yl)-3-pyridin-2yl-acrylic acid ethyl ester | C(C)OC(C=C(C1=NC=CC=C1)C1=CC=C2C(=NNC2=C1)OC)=O | C18H17N3O3
